US07598417B2
Indan-1,4-diamine:
A solution of 4-nitro-indan-1-one O-methyl-oxime (5.31 g, 25.75 mmol) in 50 mL of TFA was mixed with Pd/C (150 mg) and hydrogenated at 50 psi for 14 hours. The resulting mixture was filtered through a pad of celite and the filtrate was concentrated to give the crude title compound, which was used in the next step without further purification. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ 1.90-2.03 (m, 1H), 2.41-2.53 (m, 3H), 2.63-3.18 (m, 2H), 4.65-4.75 (m, 1H), 7.00-7.13 (m, 1H), 7.18-7.27 (m, 2H), 8.31 (s, 2H).

reactant | 4-nitro-indan-1-one O-methyl-oxime | 25.75 mmol, 5.31 g | CON=C1CCC2=C(C=CC=C12)[N+](=O)[O-] | C10H10N2O3
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | Indan-1,4-diamine | C1(CCC=2C(=CC=CC12)N)N | C9H12N2
